US07799775B2
After dissolving 1.01 g of 1-(4-benzylpiperazin-1-yl)-7-chloroisoquinoline as synthesized in above Step 1 in 30 ml of tetrahydrofuran, 20 mg of palladium acetate, 48 mg of 2-(di-tert-butylphosphino)biphenyl, 450 mg of sodium-tert-butoxide and 5 ml of 2.0 M dimethylamine-tetrahydrofuran solution were added to the solution and sealed in a tube. This mixture was stirred at 80° C. for 16 hours. Removing the insoluble matter by filtration, the solvent was distilled off under reduced pressure and the residue was purified on silica gel column chromatography (methanol:chloroform=1:19) to provide 261 mg (25%) of 1-(4-benzylpiperazin-1-yl)-7-dimethylaminoisoquinoline.

reactant | 1-(4-benzylpiperazin-1-yl)-7-chloroisoquinoline | 1.01 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)Cl | C20H20ClN3
reactant | 2-(di-tert-butylphosphino)biphenyl | 48 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium-tert-butoxide | 450 mg | CC(C)([O-])C.[Na+]
reactant | dimethylamine tetrahydrofuran | 2.0 M, 5 ml | CNC.O1CCCC1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium acetate | 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-benzylpiperazin-1-yl)-7-dimethylaminoisoquinoline | 261 mg, 25% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)N(C)C | C22H26N4
